US08314100B2
a) 3-Amino-6-fluoro-2-methoxyquinoxaline
To 3-amino-2-chloro-6-fluoroquinoxaline (550 mg, 2.78 mmol) dissolved in tetrahydrofuran (40 ml), 25 wt % sodium methoxide (6.01 g, 27.8 mmol) in methanol was added at room temperature and stirred further at room temperature for 1 hour. The resulting mixture was concentrated under the reduced pressure to remove the solvent. The product was extracted with dichloromethane and the organic layer was washed with water and dried over MgSO4. After concentration under the reduced pressure, the crude product was purified by SiO2 column chromatography. Extraction of the residue with a n-hexane:ethyl acetate (2:1) mixture and concentration gave 491 mg of the titled compound (yield, 91%).

reactant | 3-amino-2-chloro-6-fluoroquinoxaline | 2.78 mmol, 550 mg | NC=1C(=NC2=CC=C(C=C2N1)F)Cl | C8H5ClFN3
reactant | sodium methoxide | 27.8 mmol, 6.01 g | C[O-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-Amino-6-fluoro-2-methoxyquinoxaline | 491 mg, 91% | NC=1C(=NC2=CC=C(C=C2N1)F)OC | C9H8FN3O
